US06589978B2
(2RS,5RS)-1-{3-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propyl}-4-methyl-1H-imidazole
The title compound, colorless oil, MS: m/e=442.2 (M+H+), was prepared in accordance with the general method of example 82b from (2RS,5RS)-2-(3-chloro-propyl)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine and 4-methyl-1H-imidazole.

reactant | (2RS,5RS)-2-(3-chloro-propyl)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine | ClCCCC1N(C(CC1)C1=CC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)C | C20H23ClFNO2S
reactant | 4-methyl-1H-imidazole | CC=1N=CNC1 | C4H6N2
product | (2RS,5RS)-1-{3-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propyl}-4-methyl-1H-imidazole | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CCCN1C=NC(=C1)C | C24H28FN3O2S
